US05349042
To 3,000 g of a 20% aqueous solution of sodium hydroxide (15 mol of sodium hydroxide) were added 1,000 g (10.6 mol) of phenol, 10.7 g (0.106 mol) of triethylamine, and 5 L (L=liter) of methylene chloride and 660 g (6.7 mol) of phosgene was blown into the mixture to react. When the reaction was over, 100 ml of 30% hydrochloric acid was added to wash the mixture, and the organic phase was separated. Subsequently, after washing with 3.5 L of water, the organic phase was separated, and methylene chloride phase was removed to obtain crude diphenylcarbonate A, which was vacuum-distilled to obtain Diphenylcarbonate A. The chlorine content in Diphenylcarbonate A derived from chloroformate group was 3,000 ppm.

reactant | sodium hydroxide | 15 mol | [OH-].[Na+]
reactant | phenol | 10.6 mol, 1,000 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.106 mol, 10.7 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | 6.7 mol, 660 g | C(=O)(Cl)Cl | CCl2O
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methylene chloride | 5 L | C(Cl)Cl | CH2Cl2
product | Diphenylcarbonate | C1(=CC=CC=C1)OC(OC1=CC=CC=C1)=O | C13H10O3
